US08629160B2
A mixture of 6-methoxypyridin-3-ylboronic acid (1.2 g, 7.84 mmol), ethyl 3-aminobenzoate (1.29 g, 7.84 mmol), and 2-oxoacetic acid hydrate (723 mg, 7.84 mmol) in acetonitrile (70 ml) was stirred at room temperature overnight. The solvent was evaporated under vacuum, and the crude product was purified by flash chromatography (DCM/MeOH=9/1) to obtain 2-(3-(ethoxycarbonyl)phenylamino)-2-(6-methoxypyridin-3-yl)acetic acid (0.95 g, 38% yield).

reactant | 6-methoxypyridin-3-ylboronic acid | 7.84 mmol, 1.2 g | COC1=CC=C(C=N1)B(O)O | C6H8BNO3
reactant | ethyl 3-aminobenzoate | 7.84 mmol, 1.29 g | NC=1C=C(C(=O)OCC)C=CC1 | C9H11NO2
reactant | 2-oxoacetic acid hydrate | 7.84 mmol, 723 mg | O.O=CC(=O)O
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
product | 2-(3-(ethoxycarbonyl)phenylamino)-2-(6-methoxypyridin-3-yl)acetic acid | 0.95 g, 38% yield | C(C)OC(=O)C=1C=C(C=CC1)NC(C(=O)O)C=1C=NC(=CC1)OC | C17H18N2O5
